US08492414B2
3-(4-Benzyloxyphenyl)-5-bromomethyl-[1,2,4]thiadiazole
To a solution of [3-(4-benzyloxyphenyl)-[1,2,4]thiadiazol-5-yl]-methanol (0.052 g, 0.17 mmol) in toluene (5 ml) was added PBr3 (0.027 ml, 0.26 mmol) and the resulting reaction mixture was refluxed at 120° C. for 15 min. After the completion of the reaction (TLC monitoring), the reaction mixture was cooled to 0° C., added water (50 ml) and extracted with ethyl acetate (3×50 ml). The combined organics was washed with saturated NaHCO3 solution, dried over Na2SO4, filtered and concentrated under vacuum to get the desired product (0.043 g, 68%).

reactant | [3-(4-benzyloxyphenyl)-[1,2,4]thiadiazol-5-yl]-methanol | 0.17 mmol, 0.052 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C1=NSC(=N1)CO | C16H14N2O2S
reactant | PBr3 | 0.26 mmol, 0.027 ml | P(Br)(Br)Br | Br3P
reactant | water | 50 ml | O | H2O
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
product | 3-(4-Benzyloxyphenyl)-5-bromomethyl-[1,2,4]thiadiazole | 0.043 g, 68% | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C1=NSC(=N1)CBr | C16H13BrN2OS
